US07199135B2
N-{3-[1-(3-{[(4-fluorophenyl)acetyl]amino}propyl)-4-piperidinyl]-4-methylphenyl}-2-methyl propanamide:
Example 175 was prepared from (4-fluorophenyl)acetic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-methylphenyl}-2-methylpropanamide according to the procedures described in Scheme 12: 1H NMR (400 MHz, CDCl3) δ 7.38 (s, 1 H), 7.32 (s, 1 H), 7.28–7.16 (m, 3 H), 7.04–6.90 (m, 3 H), 6.86 (s, 1 H), 3.47 (s, 2 H), 3.27 (q, 2 H, J=6.0 Hz), 2.95 (d, 2 H, J=11.6 Hz), 2.69–2.53 (m, 1 H), 2.50–2.32 (m, 3 H), 2.19 (s, 3 H), 2.09–1.94 (m, 2 H), 1.74–1.53 (m, 6 H), 1.15 (d, 6 H, J=7.2 Hz); ESMS m/e: 454.3 (M+H)+.

reactant | (4-fluorophenyl)acetic acid | FC1=CC=C(C=C1)CC(=O)O | C8H7FO2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-methylphenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1C)NC(C(C)C)=O | C19H31N3O
product | N-{3-[1-(3-{[(4-fluorophenyl)acetyl]amino}propyl)-4-piperidinyl]-4-methylphenyl}-2-methyl propanamide | FC1=CC=C(C=C1)CC(=O)NCCCN1CCC(CC1)C=1C=C(C=CC1C)NC(C(C)C)=O | C27H36FN3O2
